US06548694B2
A solution of 53.0 g 5-(tert-butyl-dimethyl-silanyloxy)-2-fluoro-phenol (M. Kawase, A. K. Sinhababu, R. T. Borchardt, Chem. Pharm. Bull. (1990),38, 2939) in 120 ml DMF was cooled to 0° C. Within 15 min 61.6 ml tert-butyldiphenylsilyl chloride were added. Then 16.4 g imidazole were added portionwise. The suspension was stirred overnight, then quenched with 150 ml H2O at 0° C. The crude product was isolated by extraction with hexanes and purified by chromatography on silica gel (hexanes) to yield 88.9 g of 4-(tert-butyl-dimethyl-silanyloxy)-2-(tert-butyl-diphenyl-silanyloxy)-fluorobenzene as colorless liquid.

reactant | 5-(tert-butyl-dimethyl-silanyloxy)-2-fluoro-phenol | 53.0 g | C(C)(C)(C)[Si](OC=1C=CC(=C(C1)O)F)(C)C | C12H19FO2Si
reactant | tert-butyldiphenylsilyl chloride | 61.6 ml | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 16.4 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | 4-(tert-butyl-dimethyl-silanyloxy)-2-(tert-butyl-diphenyl-silanyloxy)-fluorobenzene | 88.9 g | C(C)(C)(C)[Si](OC1=CC(=C(C=C1)F)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(C)C | C28H37FO2Si2
